US04029815
5-Chloro-N-(2-methyl-3-trifluoromethylphenyl) anthranilic acid
To a solution of 25 g. of 2,5-dichlorobenzoic acid in 125 ml. of n-pentyl alcohol add 4.8 g. of sodium hydroxide pellets, 25 g. of 2-methyl-3-trifluoromethylaniline and 2 g. of copper powder. With constant stirring, reflux the reaction mixture for 18 hours. Concentrate the mixture to one half volume and dilute with water and ether. Acidify the aqueous layer to yield the product which is recrystallized from methanol, m.p. 220°-222° C.

reactant | 2,5-dichlorobenzoic acid | ClC1=C(C(=O)O)C=C(C=C1)Cl | C7H4Cl2O2
reactant | n-pentyl alcohol | C(CCCC)O | C5H12O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | 2-methyl-3-trifluoromethylaniline | CC1=C(N)C=CC=C1C(F)(F)F | C8H8F3N
catalyst | copper | [Cu] | Cu
product | 5-Chloro-N-(2-methyl-3-trifluoromethylphenyl) anthranilic acid | ClC1=CC=C(C(C(=O)O)=C1)NC1=C(C(=CC=C1)C(F)(F)F)C | C15H11ClF3NO2
